US05891909
c) 3-[3-(Benzo-2,1,3-thiadiazole-4-sulfonyloxy)-5-methylphenoxy]propionaldehyde
Sulfur trioxide pyridine complex (720 mg, 4.5 mmol) was added to a solution of 3-[3-(benzo-2,1,3-thiadiazole-4-sulfonyloxy)-5-methylphenoxy]propanol (565 mg, 1.5 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.6 mL, 4.7 mmol) and anhydrous dimethyl sulfoxide (0.3 mL, 4.2 mmol) in anhydrous dichloromethane (15 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a pale yellow oil (450 mg, 80%). 1H-NMR (300 MHz, CDCl3) δ 9.82 (s, 1H), 8.35 (d, J=8.7 Hz, 1H), 8.27 (d, J=7.1 Hz, 1H), 7.72 (t, J=8.6 Hz, 1H), 6.59 (s, 1H), 6.49 (s, 1H), 6.44 (s, 1H), 4.17 (t, J=6.0 Hz, 2H), 2.85 (t, J=6.0 Hz, 2H), 2.21 (s, 3H).

reactant | 3-[3-(benzo-2,1,3-thiadiazole-4-sulfonyloxy)-5-methylphenoxy]propanol | 1.5 mmol, 565 mg | N=1SN=C2C1C=CC=C2S(=O)(=O)OC=2C=C(OCCCO)C=C(C2)C | C16H16N2O5S2
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 4.2 mmol, 0.3 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[3-(Benzo-2,1,3-thiadiazole-4-sulfonyloxy)-5-methylphenoxy]propionaldehyde | 450 mg, 80% | N=1SN=C2C1C=CC=C2S(=O)(=O)OC=2C=C(OCCC=O)C=C(C2)C | C16H14N2O5S2
